US07786292B2
Synthesis of 4-(4,8,11-Tris-(2,2,2-trifluoroacetyl)-1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid
To a two-neck round bottom flask purged with argon was added successively 4-(1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid (90 mg, 0.24 mmol), dry methanol (1 ml), dry triethyl amine (0.5 ml) and trifluoroethylacetate (1.7 ml). All following procedures were carried on in argon atmosphere. The mixture was stirred for 60 hours. After that the solvents were removed at reduced pressure and the residue was taken up in dry tetrahydrofurane (5 ml). The THF solution was filtered and the solvent removed at reduced pressure. The residue was dried in vacuo for 4 hours to produce 0.54 g of oily compound. MS m/z 623.5 M[C24H27F9N4O5]+1.

reactant | 4-(1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid | 0.24 mmol, 90 mg | N1(CCNCCCNCCNCCC1)CC1=CC=C(C(=O)O)C=C1 | C18H30N4O2
reactant | methanol | 1 ml | CO | CH4O
reactant | trifluoroethylacetate | 1.7 ml | FC(COC(C)=O)(F)F | C4H5F3O2
solvent | triethyl amine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 4-(4,8,11-Tris-(2,2,2-trifluoroacetyl)-1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid | 0.54 g | FC(C(=O)N1CCN(CCCN(CCN(CCC1)C(C(F)(F)F)=O)C(C(F)(F)F)=O)CC1=CC=C(C(=O)O)C=C1)(F)F | C24H27F9N4O5
